US06187923B1
To a mixture of 10.0 g (58.0 mmol) of 4-chloroanthranilic acid in 100 mL of 1,4-dioxane was slowly added 100 mL (193 mmol) of a 1.93 molar solution of phosgene in toluene, at room temperature. The mixture was stirred overnight. The mixture was concentrated to yield a residue which was triturated with ethyl acetate-hexane (1:4), filtered, washed with hexane and dried to afford 8.78 g (76.2%) of the 4-chloroisatoic anhydride as a light brown solid. MS (Cl mode) m/z 198 (M+H, 100%), Cl pattern 200, 35%.

reactant | 4-chloroanthranilic acid | 58.0 mmol, 10.0 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloroisatoic anhydride | 8.78 g, 76.2% | ClC=1C=C2C(C(=O)OC(N2)=O)=CC1 | C8H4ClNO3
